* Manifold Chip: DGAC SST-Gate Phase Transition Simulation
* Translating the Metabolic Phase Transition into Silicon

* 1. THE SOMATIC INPUT (40Hz Spikes)
* Generating a 40Hz square wave from -5V to +5V to match the Python script.
V_somatic n_in 0 PULSE(-5 5 0 1u 1u 12.5m 25m)

* 2. THE LOCAL LEAKY INTEGRATOR (RC Circuit)
* Accumulates incoming current to serve as a proxy for representational density.
* R = 1k Ohm, C = 10uF (Time constant = 10ms)
R_int n_in n_rc 1k
C_int n_rc 0 10u

* 3. THE HYSTERETIC SHIELD (Schmitt Trigger)
* Protects against thermal noise by enforcing hysteresis.
* Standard linear VCVS with gain of 1,000,000
E_comp n_gate_raw 0 n_ref n_rc 1Meg

* NGSpice Behavioral Source to limit output to +/- 15V (Op-Amp rails)
B_limit n_gate 0 V=min(15, max(-15, v(n_gate_raw)))

* Positive feedback resistor network (R1 and R2) sets the threshold (Vth)
* If output is +/-15V, a 9k/1k voltage divider perfectly hits +/- 1.5V.
R1 n_gate n_ref 9k
R2 n_ref 0 1k

* 4. THE SST GATE (Analog Shunt FET)
* This is the biophysical actuator translated to silicon. 
* It connects the 'Apical' contextual array to the ground plane.
V_apical_dummy n_apical_source 0 DC 5
R_apical n_apical_source n_apical 10k

* The N-Channel MOSFET (SST Transistor)
* When n_gate is 15V, the shunt is CLOSED (Euclidean State, current dumped to ground).
* When n_gate is -15V, the shunt is OPEN (Hyperbolic State, current forced into integration node).
M_SST n_apical n_gate 0 0 NMOD
.model NMOD NMOS(Level=1 VTO=2.0 KP=0.05)

* 5. SIMULATION COMMANDS
* Running a transient analysis for 150ms to match the Python simulation window.
.tran 100u 150m
.control
run
* Plot the local voltage against the input spikes
plot v(n_in) v(n_rc) title 'Somatic Spikes vs RC Integration'
* Plot the SST Shunt Gate State
plot v(n_gate) title 'SST Gate State (Hysteretic Transition)'
* Plot the Apical current shunt behavior
plot v(n_apical) title 'Apical Voltage (Topological Switch)'
.endc
.end